US09382188B2
D) 3-(3-(((2-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoic acid
To a solution of ethyl 3-(3-(((2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate (129 mg) in methanol (1.5 mL) and THF (1.5 mL) was added 1N aqueous sodium hydroxide solution (0.66 mL), and the mixture was stirred at room temperature for 9 hr. Water and hydrochloric acid were added, and the reaction mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (122 mg) as a colorless oil.

reactant | ethyl 3-(3-(((2-(5-(tert-butyl)-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoate | 129 mg | C(C)(C)(C)C1=NN=C(S1)C1=C(C=CC(=C1)OCC=1C=C(C=CC1)C(CC(=O)OCC)C1CC1)C1=C(C=CC(=C1)OC)F | C34H37FN2O4S
reactant | sodium hydroxide | 1N, 0.66 mL | [OH-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 1.5 mL | CO | CH4O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 3-(3-(((2-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-2′-fluoro-5′-methoxybiphenyl-4-yl)oxy)methyl)phenyl)-3-cyclopropylpropanoic acid | 122 mg | C(C)(C)(C)C1=NN=C(S1)C1=C(C=CC(=C1)OCC=1C=C(C=CC1)C(CC(=O)O)C1CC1)C1=C(C=CC(=C1)OC)F | C32H33FN2O4S
